US05534515
2d. 1-Benzyl-7-benzylamino-3-formyl-2-methylpyrrolo-[2,3-d]pyridazine
0.58 g (1.4 mmol) of 1-benzyl-7-benzylamino-3-bromo-2-methylpyrrolo[2,3-d]pyridazine, 3.5 ml (5.7 mmol) of 15% strength solution of n-butyllithium in hexane and 0.55 ml (7 mmol) of dimethylformamide are reacted in 40 ml of anhydrous tetrahydrofuran as described for Example 2a. Yield: 44%, m.p.: 171°-172° C.

reactant | 1-benzyl-7-benzylamino-3-bromo-2-methylpyrrolo[2,3-d]pyridazine | 1.4 mmol, 0.58 g | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)NCC2=CC=CC=C2)Br)C | C21H19BrN4
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 7 mmol, 0.55 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-7-benzylamino-3-formyl-2-methylpyrrolo-[2,3-d]pyridazine | Yield: 44% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)NCC2=CC=CC=C2)C=O)C | C22H20N4O
